US05859014
A solution of 60% sodium hydride (2 g, 50 mmol) in mineral oil was washed with hexanes (2×20 mL) and cooled to 0° C. The solution was diluted with DMF (200 mL) and then uracil (5.6 g, 50 mmol) was added portionwise over 30 minutes. The mixture was treated with 2-(trimethylsilyl)ethoxymethyl chloride (8.8 mL, 50 mmol) and allowed to warm to 25° C. and stand 4 hours. The reaction mixture was diluted with water (500 mL) and extracted with diethyl ether (4×100 mL). The combined extract was washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by chromatography on silica gel eluting with hexanes/ethyl acetate (2:1) to give 1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione (1.8 g, 7.4 mmol), M.p. 120°-122° C.

reactant | sodium hydride | 50 mmol, 2 g | [H-].[Na+]
reactant | uracil | 50 mmol, 5.6 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 50 mmol, 8.8 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 500 mL | O | H2O
product | 1-[2-(trimethylsilyl)ethoxymethyl]-2,4(1H,3H)-pyrimidinedione | 7.4 mmol, 1.8 g | C[Si](CCOCN1C(NC(C=C1)=O)=O)(C)C | C10H18N2O3Si
